US08022205B2
A toluene solution (6 ml) of 3-bromopyridine (300 mg, 1.89 mmol), piperazine-1-carboxylic acid tert-butyl ester (389 mg, 2.09 mmol), tris(dibenzylideneacetone)dipalladium (43.4 mg, 0.0474 mmol), Xantphos (54.9 mg, 0.0949 mmol) and potassium tert butoxide (469 mg, 4.18 mmol) was degassed under ultrasonic irradiation, and stirred at 80° C. for 17 hours under a nitrogen atmosphere. After the reaction mixture was cooled to room temperature, water (20 ml) was added, followed by extraction twice with dichloromethane (20 ml). The organic layer was dried over sodium sulfate, followed by concentration under reduced pressure, and the residue was purified by silica gel column chromatography (dichloromethane/methanol=30/1), to obtain a crude product of 4-pyridin-3-yl-piperazine-1-carboxylic acid tert-butyl ester as a yellow liquid (510 mg).

reactant | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-bromopyridine | 1.89 mmol, 300 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | piperazine-1-carboxylic acid tert-butyl ester | 2.09 mmol, 389 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | potassium tert butoxide | 4.18 mmol, 469 mg | CC(C)([O-])C.[K+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0474 mmol, 43.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Xantphos | 0.0949 mmol, 54.9 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | water | 20 ml | O | H2O
product | 4-pyridin-3-yl-piperazine-1-carboxylic acid tert-butyl ester | 510 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC=CC1 | C14H21N3O2
